US07713996B2
4-{[1-(3,5-Dichloro-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid, MS (ISP): m/e=488.9 (M−H), was prepared in analogy to example 14, steps 1 to 6. Step 1 was performed starting from 1H-indole-6-carboxylic acid methyl ester, which was reduced to 2,3-dihydro-1H-indole-6-carboxylic acid methyl ester (see also example 34). This was protected in step 2 to 2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester 6-methyl ester, which was then hydrolyzed to 2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester in step 3. Step 4 was performed using 4-amino-benzoic acid ethyl ester, yielding 4-[(2,3-dihydro-1H-indole-6-carbonyl)-amino]-benzoic acid ethyl ester. This was reacted with 3,5-dichloro-benzenesulfonyl chloride in step 5, yielding 4-{[1-(3,5-dichloro-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid, which was hydrolyzed in step 6.

reactant | 4-{[1-(3,5-Dichloro-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1CCC2=CC=C(C=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C22H16Cl2N2O5S
reactant | 1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C=CNC2=C1 | C10H9NO2
reactant | 2,3-dihydro-1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2CCNC2=C1 | C10H11NO2
reactant | 2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester 6-methyl ester | COC(=O)C1=CC=C2CCN(C2=C1)C(=O)OC(C)(C)C | C15H19NO4
reactant | 2,3-dihydro-indole-1,6-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=CC=C(C=C12)C(=O)O | C14H17NO4
reactant | 4-amino-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
product | 4-[(2,3-dihydro-1H-indole-6-carbonyl)-amino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(=O)C1=CC=C2CCNC2=C1)=O | C18H18N2O3
